US04259337
3.4 g of silver oxide were added to a solution of 9.2 g of 3-(m-trifluoromethylphenyl)-piperidine in 45 ml of acetone and after 61/2 hours of stirring 1.1 g of silver oxide and 4.9 ml of isopropyl iodide were added. The mixture was stirred for 24 hours and was filtered. The filtrate was evaporated to dryness to obtain 10.4 g of N-isopropyl-3-(m-trifluoromethylphenyl)-piperidine.

reactant | 3-(m-trifluoromethylphenyl)-piperidine | 9.2 g | FC(C=1C=C(C=CC1)C1CNCCC1)(F)F | C12H14F3N
reactant | isopropyl iodide | 4.9 ml | C(C)(C)I | C3H7I
solvent | acetone | 45 ml | CC(=O)C | C3H6O
catalyst | silver oxide | 3.4 g | [Ag]=O
catalyst | silver oxide | 1.1 g | [Ag]=O
product | N-isopropyl-3-(m-trifluoromethylphenyl)-piperidine | 10.4 g | C(C)(C)N1CC(CCC1)C1=CC(=CC=C1)C(F)(F)F | C15H20F3N
